US05318992
Suspend N5 -benzyloxycarbonyl-ornithine (80 g, 0.3 mol) in t-butyl acetate (250 mL) and cool to 10° C. Add p-toluenesulfonic acid (57 g, 0.3 mol) and add, by dropwise addition, concentrated sulfuric acid (80 mL). Stir at 10° C. until the reaction is complete, basify to pH 8 by adding a suspension of sodium bicarbonate in water. Extract with ethyl acetate, dry (MgSO4), and evaporate to give N5 -benzyloxycarbonyl-ornithine, t-butyl ester.

reactant | N5 -benzyloxycarbonyl-ornithine | 0.3 mol, 80 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](N)C(=O)O | C13H18N2O4
reactant | p-toluenesulfonic acid | 0.3 mol, 57 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sulfuric acid | 80 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | t-butyl acetate | 250 mL | C(C)(=O)OC(C)(C)C | C6H12O2
solvent | water | O | H2O
product | N5 -benzyloxycarbonyl-ornithine, t-butyl ester | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](N)C(=O)OC(C)(C)C | C17H26N2O4
